US07112594B2
5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile
By the reaction and treatment in the same manner as in Starting Material Synthetic Example 4 using 2-chloro-5-nitrobenzonitrile (36 g) and 4-hydroxypiperidine (50 g), the title compound (25 g) was obtained. melting point: 144-145° C.

reactant | 2-chloro-5-nitrobenzonitrile | 36 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-hydroxypiperidine | 50 g | OC1CCNCC1 | C5H11NO
product | 5-amino-2-(4-hydroxypiperidin-1-yl)benzonitrile | 25 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)O | C12H15N3O
